US08455638B2
Step A. Methyl 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
A round bottomed flask was charged with methyl 4-bromo-2-methylbenzoate (3.98 g, 17.37 mmol), bis(pinacolato)diboron (4.85 g, 19.11 mmol), potassium acetate (5.12 g, 52.1 mmol), and dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium (II) dichloromethane adduct (0.426 g, 0.521 mmol). The flask was purged with nitrogen. Anhydrous DMSO (100 mL) was added, and the resulting suspension was degassed via nitrogen sparge. The mixture was then placed in a pre-heated oil bath (80° C.), and was held at this temperature for 2 h, whereupon it was allowed to cool to ambient temperature, then was poured into water. The aqueous phase was extracted with ether, and the organic phase was washed with brine. The organic phase was then separated, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 10% EtOAc in hexanes, then 10 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 277.6 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 7.87 (d, J=7.5 Hz, 1H), 7.68 (s, 1H), 7.66 (d, J=7.5 Hz, 1H), 3.89 (s, 3H), 2.59 (s, 3H), 1.35 (s, 12H).

reactant | methyl 4-bromo-2-methylbenzoate | 17.37 mmol, 3.98 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | bis(pinacolato)diboron | 19.11 mmol, 4.85 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 52.1 mmol, 5.12 g | C(C)(=O)[O-].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium (II) dichloromethane adduct | 0.521 mmol, 0.426 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | Methyl 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC1=C(C(=O)OC)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BO4
